US07115648B2
5-Chloro-N-{2-[(2-hydroxyethyl)phenylamino]-2-oxoethyl}-1H-indole-2-carboxamide
A solution of N-[(5-chloro-1H-indol-2-yl)carbonyl]glycine (Cas Reg No 186429-62-9; Hulin, Bernard, et al, PCT International Patent Application (1996) WO 9639384; 374 mg, 1.5 mmol) and 2-(phenylamino)ethanol (228 mg, 1.6 mmol) in THF (20 ml) was stirred at ambient temperature for 30 minutes. 4-(4,6-Dimethoxy-1,3,5-triazin-2-yl)4-methylmorpholinium chloride (DMTMM) (480 mg, 1.6 mmol) was added and the reaction mixture stirred at ambient temperature overnight, poured into water (15 ml) and extracted with ethyl acetate (3×15 ml). The organic extracts were combined and washed with 1N citric acid solution (15 ml), sodium bicarbonate solution (15 ml), dried over magnesium sulphate, filtered and concentrated to give the title product (471 mg, 86%).

reactant | N-[(5-chloro-1H-indol-2-yl)carbonyl]glycine | ClC=1C=C2C=C(NC2=CC1)C(=O)NCC(=O)O | C11H9ClN2O3
reactant | 2-(phenylamino)ethanol | 1.6 mmol, 228 mg | C1(=CC=CC=C1)NCCO | C8H11NO
reactant | 4-(4,6-Dimethoxy-1,3,5-triazin-2-yl)4-methylmorpholinium chloride | 1.6 mmol, 480 mg | [Cl-].COC1=NC(=NC(=N1)OC)[N+]1(CCOCC1)C
reactant | water | 15 ml | O | H2O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 5-Chloro-N-{2-[(2-hydroxyethyl)phenylamino]-2-oxoethyl}-1H-indole-2-carboxamide | 471 mg, 86% | ClC=1C=C2C=C(NC2=CC1)C(=O)NCC(=O)N(C1=CC=CC=C1)CCO | C19H18ClN3O3
